US08455534B2
Step 2: (E)-Ethyl 2-methyl-3-(4-((E)-2-phenyl-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)phenyl)acrylate
To a suspension of NaH (80 mg, 2 mmol, 60% dispersion in mineral oil) in THF (10 mL) at 0° C., ethyl 2-(diethoxyphosphoryl)propanoate (0.36 g, 1.5 mmol) was added. The reaction was stirred at 0° C. for 1 h, and then a THF solution of (E)-4-(2-phenyl-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)benzaldehyde (0.44 g, 1 mmol) was added. The resulting mixture was gradually warmed to room temperature and stirred overnight. The reaction mixture was quenched with saturated ammonium chloride solution and extracted with EtOAc (2×100 mL). Combined organic layers were washed with water, brine, dried over sodium sulfate, filtered and concentrated to give the crude material as pale yellow oil. LCMS: 437 [(M-THP+H)+H]+.

reactant | NaH | 2 mmol, 80 mg | [H-].[Na+]
reactant | ethyl 2-(diethoxyphosphoryl)propanoate | 1.5 mmol, 0.36 g | C(C)OP(=O)(OCC)C(C(=O)OCC)C | C9H19O5P
reactant | (E)-4-(2-phenyl-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)benzaldehyde | 1 mmol, 0.44 g | C1(=CC=CC=C1)/C(=C(/C=1C=C2C=NN(C2=CC1)C1OCCCC1)\C1=CC=C(C=O)C=C1)/CC | C29H28N2O2
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | (E)-Ethyl 2-methyl-3-(4-((E)-2-phenyl-1-(1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-5-yl)but-1-en-1-yl)phenyl)acrylate | C/C(/C(=O)OCC)=C\C1=CC=C(C=C1)/C(=C(/CC)\C1=CC=CC=C1)/C=1C=C2C=NN(C2=CC1)C1OCCCC1 | C34H36N2O3
